US08802659B2
3-(Tert-butoxycarbonylamino)propanoic acid (4 g, 21.2 mmol, 1.0 equiv) was dissolved in DCM (100 mL). Then phenylsulfonamide (15.1 mmol, 0.7 equiv), EDCI (3.45 g, 18.2 mmol, 0.85 equiv) and DMAP (0.37 g, 3 mmol, 0.15 equiv) were added to the mixture and stirred for 2 h at room temperature. The reaction mixture was cooled down to 0° C., ice water (100 mL) was added. The mixture was stirred for 15 min, separated and the water layer was extracted twice with dichloromethane. The combined organic layer was washed by 5% HCl, brine, dried over Na2SO4, concentrated to give tert-butyl 3-oxo-3-(phenylsulfonamido)propylcarbamate 5.3 g, gray oil, 100%. EDI-MS: 329.0 (M+H)+. 1H NMR (400 MHz, CDCl3) δ: 9.52˜9.43 (brs, 1H), 8.02˜7.96 (m, 2H), 7.61˜7.55 (m, 1H), 7.50-7.45 (m, 2H), 5.02˜4.93 (m, 1H), 3.30˜3.24 (m, 2H), 2.48˜2.41 (m, 2H), 1.34 (s, 9H).

reactant | 3-(Tert-butoxycarbonylamino)propanoic acid | 21.2 mmol, 4 g, 1.0 equiv | C(C)(C)(C)OC(=O)NCCC(=O)O | C8H15NO4
reactant | phenylsulfonamide | 15.1 mmol, 0.7 equiv | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
reactant | EDCI | 18.2 mmol, 3.45 g, 0.85 equiv | CCN=C=NCCCN(C)C | C8H17N3
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 3 mmol, 0.37 g, 0.15 equiv | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-butyl 3-oxo-3-(phenylsulfonamido)propylcarbamate | 5.3 g | O=C(CCNC(OC(C)(C)C)=O)NS(=O)(=O)C1=CC=CC=C1 | C14H20N2O5S
